US04536578
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(3-trifluoromethylphenyl)piperazine hydrochloride
A mixture of 6.5 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 5.8 g of N-(α,α,α-trifluoro-m-tolyl)piperazine, 7.0 g of potassium carbonate and a few crystals potassium iodide in 80 ml of dimethylformamide was stirred at 70°-75° C. for seven hrs. The reaction mixture was cooled, filtered and concentrated to an oil, which was stirred with water and extracted with ether-ethyl acetate. The organic extracts were washed with water (2×), saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The mixture was filtered and concentrated to an oil, which was converted to a salt by treatment with ethereal hydrogen chloride. The salt was recystallized from ethyl acetate/methanol to give 4 g (35%) of product mp, 208°-209° C.

reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 6.5 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | N-(α,α,α-trifluoro-m-tolyl)piperazine | 5.8 g | FC(C1=CC(=CC=C1)N1CCNCC1)(F)F | C11H13F3N2
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(3-trifluoromethylphenyl)piperazine hydrochloride | 4 g, 35% | Cl.FC1=CC2=C(C(=NO2)CCCN2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)C=C1 | InChI=1S/C21H21F4N3O.ClH/c22-16-6-7-18-19(26-29-20(18)14-16)5-2-8-27-9-11-28(12-10-27)17-4-1-3-15(13-17)21(23,24)25;/h1,3-4,6-7,13-14H,2,5,8-12H2;1H
